US08084448B2
B. 1-(3-Benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one
A solution of 1-[1-(3-benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-ylidene]-pyrrolidinium bromide (700 mg, 1.59 mmol) in a mixed solvent of 10 mL H2O, 1 mL CHCl3 and 2 mL CH3COOH is stirred at RT for 3 h. The solution is diluted with CH2Cl2 and the organic layer is washed well with water, brine and dried over MgSO4. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using a gradient of 33-50% EtOAc/hexane as eluent to give the title compound as a yellow liquid. NMR (CDCl3): 7.70-7.68 (d, J=8.34 Hz, 1H), 7.40-7.29 (m, 5H), 7.23-7.15 (m, 3H), 6.96-6.94 (dd, J=6.31 Hz, 1 H), 6.57-6.55 (m, 2H), 4.96 (s, 2H), 3.75-3.72 (t, J=6.07 Hz, 1H), 3.34-3.29 (q, J=6.82 Hz, 1H), 3.19-3.14 (q, J=5.30 Hz, 1H), 2.88-2.82 (m, 1H), 2.57-2.46 (m, 3H). (M−1)−=386.

reactant | 1-[1-(3-benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-ylidene]-pyrrolidinium bromide | 1.59 mmol, 700 mg | [Br-].C(C1=CC=CC=C1)OC=1C=C(CC2C(CCC3=CC=CC=C23)=[N+]2CCCC2)C=CC1[N+](=O)[O-]
reactant | H2O | 10 mL | O | H2O
reactant | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
reactant | CH3COOH | 2 mL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(3-Benzyloxy-4-nitrobenzyl)-3,4-dihydro-1H-naphthalen-2-one | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCC3=CC=CC=C23)=O)C=CC1[N+](=O)[O-] | C24H21NO4
